US05455260
To a mixture of ethyl 2-[4-(benzoxazol-2-yl)benzyl]-N-trityl-glycine (8.8 g; 16 mmol), dry ether (80 ml) and dry THF (40 ml) is added lithium aluminum hydride (0.8 g; 21 mmol) at 0° C. The reaction is then cooled to 0° C. and 0.8 ml H2O is added slowly, followed by 0.8 ml of 15% NaOH and then 2.4 ml H2O. This is brought to 25° C. and stirred 15 hours. The reaction is filtered through a bed of celite and extracted with ether and THF. The filtrate is concentrated to an oil which solidifies upon treatment with MeOH and Et2O. The solid is recrystallized from MeOH to yield N-trityl-1-[4-(benzoxazol-2-yl)phenyl]-3-hydroxy-2-propanamine.

reactant | ethyl 2-[4-(benzoxazol-2-yl)benzyl]-N-trityl-glycine | 16 mmol, 8.8 g | C(C)N(C(C(=O)O)CC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C37H32N2O3
reactant | ether | 80 ml | CCOCC | C4H10O
reactant | lithium aluminum hydride | 21 mmol, 0.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 0.8 ml | [OH-].[Na+]
solvent | H2O | 2.4 ml | O | H2O
solvent | H2O | 0.8 ml | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | N-trityl-1-[4-(benzoxazol-2-yl)phenyl]-3-hydroxy-2-propanamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC(CC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2)CO | C35H30N2O2
